US09079902B2
1-Methyl-3-(Naphthalen-1-yl)-N-(1,2,4-Thiadiazol-5-yl)-1H-Indole-6-Sulfonamide
The title compound was prepared in an analogous manner to that described in Example 28 using naphthalen-1-ylboronic acid and 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide, and the desired product, 1-methyl-3-(naphthalen-1-yl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide, was isolated as an off-white solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 3.98 (s, 3 H) 7.37 (d, J=8.36 Hz, 1 H) 7.44-7.48 (m, 2 H) 7.51-7.62 (m, 3 H) 7.80 (s, 1 H) 7.93 (dd, J=8.19, 4.64 Hz, 2 H) 7.97-8.03 (m, 2 H) 8.08 (s, 1 H). m/z (ESI) 420.1 (M+H)+.

reactant | naphthalen-1-ylboronic acid | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | BrC1=CN(C2=CC(=CC=C12)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)C | C20H19BrN4O4S2
product | 1-methyl-3-(naphthalen-1-yl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | CN1C=C(C2=CC=C(C=C12)S(=O)(=O)NC1=NC=NS1)C1=CC=CC2=CC=CC=C12 | C21H16N4O2S2
